* OPA379
*****************************************************************************
* (C) Copyright 2011 Texas Instruments Incorporated. All rights reserved.                                            
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of 
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer.
****************************************************************************
* This model is subject to change without notice. Texas Instruments
* Incorporated is not responsible for updating this model.
*****************************************************************************
** Released by: Analog eLab Design Center, Texas Instruments Inc.
* Part: OPA379
* Date: 31MAY2011
* Model Type: ALL-IN-ONE
* Simulator: PSPICE
* Simulator Version: 16.0.0.p001
* EVM Order Number: N/A
* EVM Users Guide: N/A
* Datasheet: SBOS347D–NOVEMBER 2005–REVISED MAY 2008
*
* Model Version: 1.0
*****************************************************************************
*
* Updates:
*
* Version 1.0 : 
* Release to Web
*
*****************************************************************************
* BEGIN MODEL OPA379
*
* BEGIN NOTES
* This model is applicable to OPA379, OPA2379 and OPA4379
* MODEL TEMP RANGE IS -40 TO +125 DEG C.
* NOTE THAT THE MODEL IS FUNCTIONAL OVER THIS RANGE
* BUT NOT ALL PARAMETERS TRACK THOSE OF THE REAL PART.
*
* FOR ACCURATE BIAS CURRENT SET ABSTOL TO 1E-13 OR AS LOW AS
* ALLOWS CONVERGANCE IN YOUR CIRCUIT.
*
* END NOTES
*
* BEGIN MODEL FEATURES
*
* OPEN LOOP GAIN AND PHASE
* INPUT VOLTAGE NOISE
* INPUT CURRENT NOISE
* INPUT BIAS CURRENT
* INPUT CAPACITANCE
* INPUT COMMON MODE VOLTAGE RANGE
* INPUT CLAMPS TO RAILS
* CMRR WITH FREQUENCY EFFECTS
* PSRR WITH FREQUENCY EFFECTS
* SLEW RATE
* QUIESCENT CURRENT
* QUIESCENT CURRENT VS VOLTAGE
* QUIESCENT CURRENT VS TEMPERATURE
* RAIL TO RAIL OUTPUT STAGE
* HIGH CLOAD EFFECTS
* CLASS AB BIAS IN OUTPUT STAGE
* OUTPUT CURRENT THROUGH SUPPLIES
* OUTPUT CURRENT LIMITING
* OUTPUT CLAMPS TO RAILS
* OUTPUT SWING VS OUTPUT CURRENT
*
* END MODEL FEATURES
*
* PINOUT ORDER +IN -IN +V -V OUT
* PINOUT ORDER  1   3   5  2  4
*
.SUBCKT OPA379 1 3 5 2 4
*
Q21 25 26 24 QNL
R77 27 28 200
R78 29 28 200
R79 30 26 100
R80 31 32 100
R81 33 5 14
R82 2 34 14
R84 35 36 500
R85 37 38 14
R86 24 39 14
D21 4 5 DD
D22 2 4 DD
D23 40 0 DIN
D24 41 0 DIN
I24 0 40 0.1E-3
I25 0 41 0.1E-3
E25 24 0 2 0 1
E26 38 0 5 0 1
D25 42 0 DVN
D26 43 0 DVN
I26 0 42 0.1E-3
I27 0 43 0.1E-3
E27 44 3 42 43 0.15
G13 45 3 40 41 2E-9
E28 46 0 38 0 1
E29 47 0 24 0 1
E30 48 0 49 0 1
R88 46 50 1E6
R89 47 51 1E6
R90 48 52 1E6
R91 0 50 100
R92 0 51 100
R93 0 52 100
E31 53 1 52 0 0.002
R94 54 49 1E3
R95 49 55 1E3
C29 46 50 0.2E-12
C30 47 51 0.2E-12
C31 48 52 10E-12
E32 56 53 51 0 -0.02
E33 45 56 50 0 0.02
E34 57 24 38 24 0.5
D27 35 38 DD
D28 24 35 DD
M24 58 59 34 34 NOUT L=3U W=200U
M25 60 61 33 33 POUT L=3U W=200U
M26 62 62 37 37 POUT L=3U W=200U
M27 63 64 27 27 PIN L=3U W=83U
M28 65 44 29 29 PIN L=3U W=83U
M29 66 66 39 39 NOUT L=3U W=200U
R96 67 61 100
R97 68 59 100
G14 35 57 69 57 0.02E-3
R98 57 35 3E9
C32 36 4 8.27E-12
R99 24 63 2.6E3
R100 24 65 2.6E3
C33 63 65 120E-12
C34 45 0 1.8E-12
C35 44 0 1.8E-12
C36 4 0 1E-12
D29 59 25 DD
D30 70 61 DD
Q22 70 31 38 QPL
V27 45 64 0
M30 71 72 73 73 NIN L=3U W=83U
R101 74 73 200
M31 75 44 76 76 NIN L=3U W=83U
R102 74 76 200
R103 71 38 2.6E3
R104 75 38 2.6E3
C37 71 75 120E-12
V28 64 72 5E-3
M32 77 78 79 79 PINT L=6U W=500U
M33 80 23 38 38 PIN L=6U W=500U
V29 38 78 1.07
M34 74 77 24 24 NIN L=6U W=500U
M35 77 77 24 24 NIN L=6U W=500U
G15 35 57 81 57 0.02E-3
I28 62 66 0.5E-6
E35 55 0 45 0 1
E36 54 0 3 0 1
M36 23 23 38 38 PIN L=6U W=500U
I29 23 24 2.3E-12
V30 80 28 0
R105 4 60 25
R106 58 4 25
J5 82 45 82 JC
J6 82 44 82 JC
J7 44 83 44 JC
J8 45 83 45 JC
C38 45 44 0.2E-12
E37 84 57 75 71 1
R107 84 81 10E3
C39 81 57 40E-12
E38 85 57 65 63 1
R108 85 69 10E3
C40 69 57 40E-12
G16 86 57 35 57 -1E-3
G17 57 87 35 57 1E-3
G18 57 88 66 24 1E-3
G19 89 57 38 62 1E-3
D31 89 86 DD
D32 87 88 DD
R110 86 89 1E8
R111 88 87 1E8
R112 89 38 1E3
R113 24 88 1E3
E39 38 67 38 89 1
E40 68 24 88 24 1
R114 87 57 1E10
R115 88 57 1E10
R116 57 89 1E10
R117 57 86 1E10
R118 2 5 18E6
G20 5 2 90 0 -5E-6
D33 91 0 DD
V33 91 90 0.65
R119 0 90 1E6
I31 5 2 1.8E-6
R120 79 80 60E3
I34 0 91 1E-3
V45 38 82 0.3
V46 83 24 0.3
E42 5 32 5 33 3
E43 30 2 34 2 4
R169 35 4 3E11
G29 23 24 92 0 2.3E-6
V134 92 93 1
R378 0 92 1E12
D64 93 94 DD
V135 94 0 0.5
R379 95 93 1E3
D65 96 95 DD
R380 0 95 1E6
D66 97 95 DD
R381 95 96 1E12
R382 95 97 1E12
E119 96 0 1 3 20
E120 97 0 1 3 -20
R391 0 92 1E12
R394 0 94 1E12
G35 45 0 98 0 10E-12
I41 45 0 0.5E-12
I46 0 99 1E-3
D67 99 0 DD
V136 99 100 0.7
R395 0 100 1E6
E121 101 0 100 0 -571
R396 0 101 1E6
R397 102 101 1E6
D68 103 102 DD
V137 103 104 27
V138 102 98 26.4
I47 0 105 1E-3
D69 105 0 DD
V139 105 106 0.7
R398 0 106 1E6
E122 104 0 106 0 1
G36 3 0 98 0 10E-12
I48 3 0 0.5E-12
R399 0 98 1E9
R400 0 98 1E9
R401 1 53 1E9
R402 53 56 1E9
R403 56 45 1E9
R404 3 44 1E9
R405 81 81 1E9
R406 57 69 1E9
R407 62 38 1E11
R408 24 66 1E11
R409 33 61 1E11
R410 59 34 1E11 
.MODEL JC NJF IS=1E-18
.MODEL DVN D KF=7E-14 IS=1E-16
.MODEL DIN D
.MODEL DD D
.MODEL DE D IS=3E-17
.MODEL QPL PNP
.MODEL QNL NPN
.MODEL POUT PMOS KP=200U VTO=-0.7
.MODEL NOUT NMOS KP=200U VTO=0.7
.MODEL PIN PMOS KP=200U VTO=-0.7
.MODEL NIN NMOS KP=200U VTO=0.7
.MODEL PINT PMOS KP=200U VTO=-0.7 LAMBDA=0.01
.ENDS OPA379
